US09371262B2
(E)-1-methoxy-10,12-dimethylazacyclododec-9-en-2-one
Following the general procedure as described in Example 23, 2-(prop-1-en-2-yl)cyclooctanone (1.50 g, 9.02 mmol), acetaldehyde O-methyl oxime (0.99 g, 13.53 mmol), and SnCl4 (2.35 g, 9.02 mmol) in 1,2-dichloroethane (90 ml) were reacted to give the title product as a colorless liquid (1.91 g, 89% yield). E isomer>95%.

reactant | 2-(prop-1-en-2-yl)cyclooctanone | 9.02 mmol, 1.50 g | C=C(C)C1C(CCCCCC1)=O | C11H18O
reactant | acetaldehyde O-methyl oxime | 13.53 mmol, 0.99 g | CON=CC | C3H7NO
reactant | SnCl4 | 9.02 mmol, 2.35 g | Cl[Sn](Cl)(Cl)Cl
solvent | 1,2-dichloroethane | 90 ml | ClCCCl | C2H4Cl2
product | (E)-1-methoxy-10,12-dimethylazacyclododec-9-en-2-one | 1.91 g, 89% yield | CON1C(CCCCCC\C=C(\CC1C)/C)=O | C14H25NO2
